US08633175B2
Step 3: 2-cyclohexyl-2,2-difluoroacetamide
A solution of ethyl cyclohexyl(difluoro)acetate (2.63 g, 12.75 mmol) in EtOH (6 mL) was sparged with anhyd ammonia for 15 minutes at ambient temperature. The mixture was sealed in a pressure tube and allowed to stand overnight. Volatiles were removed in vacuo and the solid residue was recrystallized from dichloromethane-hexanes affording the title compound as a waxy solid. 1H NMR (400 MHz, CDCl3) δ ppm 1.13-1.37 (m, 5H) 1.48-1.85 (m, 8H) 1.98-2.08 (m, 1H) 4.30 (q, J=7.08 Hz, 2H)

reactant | ethyl cyclohexyl(difluoro)acetate | 12.75 mmol, 2.63 g | C1(CCCCC1)C(C(=O)OCC)(F)F | C10H16F2O2
reactant | ammonia | N | H3N
solvent | EtOH | 6 mL | CCO | C2H6O
product | 2-cyclohexyl-2,2-difluoroacetamide | C1(CCCCC1)C(C(=O)N)(F)F | C8H13F2NO
